* SpiceNetList
* 
* Exported from L0_C0_Resonant_Tank.sch at 11/4/17 3:15 PM
* 
* EAGLE Version 8.4.1 Copyright (c) 1988-2017 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
L_L0 TO_MATCH N_4 56nH 
R_R1 0 TO_MATCH 50 
V_V1 SOURCE 0 DC 0V AC 3.3V SIN(0 1 1 0 0) 
C_C0 N_4 SOURCE 22pF 

* --------- models ---------

* --------- simulation ---------
.print DC V(TO_MATCH) V(SOURCE) I(V_V1)
.print AC V(TO_MATCH) V(SOURCE) I(V_V1)
.print TRAN V(TO_MATCH) V(SOURCE) I(V_V1)
.save all
.END










