* SpiceNetList
* 
* Exported from Low_Pass_Filter.sch at 12/3/17 8:40 PM
* 
* EAGLE Version 8.4.3 Copyright (c) 1988-2017 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
V_V1 SOURCE 0 DC 0V AC 3.3V SIN(0 1 1 0 0) 
C_CM SOURCE 0 4.7pF 
L_LM ANTENNA SOURCE 12nH 
R_R1 0 ANTENNA 50 
C_CM2 ANTENNA 0 7.5pF 

* --------- models ---------

* --------- simulation ---------
.AC DEC 500 10e6 1800e6 

.print AC VM(ANTENNA) VM(SOURCE) I(V_V1)

.save all
.END










